* BEGIN ANSOFT HEADER
* node 1    BASBARNEG:Cap1Neg
* node 2    BASBARNEG:Cap2Neg
* node 3    BASBARNEG:Cap3Neg
* node 4    BASBARNEG:Cap4Neg
* node 5    BASBARPOS:Cap1Pos
* node 6    BASBARPOS:Cap2Pos
* node 7    BASBARPOS:Cap3Pos
* node 8    BASBARPOS:Cap4Pos
* node 9    BASBARNEG:PhANeg
* node 10   BASBARPOS:PhAPos
*  Project: Busbarfinal
*   Design: busbar-PhACaps
*   Format: Ansys Nexxim
*   Topckt: phACaps
*  Creator: Ansys Electronics Desktop 2024.2.0
*     Date: Fri Nov 15 10:57:54 2024
* END ANSOFT HEADER

.subckt phACaps 1 2 3 4 5 6 7 8 9 10
X1 1 2 3 4 5 6 7 8 9 9 9 9 10 10 10 10 phACaps_series

.subckt phACaps_series 1 2 3 4 5 6 7 8 9 10 11 12 13 14 15 16
V1 1 17 dc 0.0
V2 2 18 dc 0.0
V3 3 19 dc 0.0
V4 4 20 dc 0.0
V5 5 21 dc 0.0
V6 6 22 dc 0.0
V7 7 23 dc 0.0
V8 8 24 dc 0.0
R1 17 25 0.000173347715384
R2 18 26 0.000515723051569
R3 19 27 0.000826870272878
R4 20 28 0.000450292889144
R5 21 29 0.000440890278897
R6 22 30 0.000582667244436
R7 23 31 0.000899707147168
R8 24 32 0.000794492568438
F1_2 25 17 V2 1.05939
F1_3 25 17 V3 1.14833
F1_4 25 17 V4 1.1436
F1_5 25 17 V5 0.72913
F1_6 25 17 V6 0.692757
F1_7 25 17 V7 0.802953
F1_8 25 17 V8 0.862712
F2_1 26 18 V1 0.356089
F2_3 26 18 V3 1.06451
F2_4 26 18 V4 0.434618
F2_5 26 18 V5 0.296545
F2_6 26 18 V6 0.529229
F2_7 26 18 V7 0.683065
F2_8 26 18 V8 0.353878
F3_1 27 19 V1 0.24074
F3_2 27 19 V2 0.663939
F3_4 27 19 V4 0.3243
F3_5 27 19 V5 0.22409
F3_6 27 19 V6 0.361753
F3_7 27 19 V7 0.583399
F3_8 27 19 V8 0.299234
F4_1 28 20 V1 0.440248
F4_2 28 20 V2 0.49777
F4_3 28 20 V3 0.59551
F4_5 28 20 V5 0.483868
F4_6 28 20 V6 0.348537
F4_7 28 20 V7 0.461627
F4_8 28 20 V8 0.742598
F5_1 29 21 V1 0.286677
F5_2 29 21 V2 0.346878
F5_3 29 21 V3 0.420271
F5_4 29 21 V4 0.494187
F5_6 29 21 V6 0.780796
F5_7 29 21 V7 0.871933
F5_8 29 21 V8 1.10615
F6_1 30 22 V1 0.2061
F6_2 30 22 V2 0.468425
F6_3 30 22 V3 0.513368
F6_4 30 22 V4 0.269354
F6_5 30 22 V5 0.59081
F6_7 30 22 V7 1.04447
F6_8 30 22 V8 0.637303
F7_1 31 23 V1 0.154706
F7_2 31 23 V2 0.391541
F7_3 31 23 V3 0.536169
F7_4 31 23 V4 0.231039
F7_5 31 23 V5 0.42728
F7_6 31 23 V6 0.676416
F7_8 31 23 V8 0.493015
F8_1 32 24 V1 0.188232
F8_2 32 24 V2 0.22971
F8_3 32 24 V3 0.311428
F8_4 32 24 V4 0.420881
F8_5 32 24 V5 0.613837
F8_6 32 24 V6 0.467387
F8_7 32 24 V7 0.558305
L1 25 9 1.86421913866e-08
L2 26 10 4.578998873e-08
L3 27 11 6.96728977778e-08
L4 28 12 4.23226967648e-08
L5 29 13 3.2242833598e-08
L6 30 14 4.63859836183e-08
L7 31 15 6.77731192944e-08
L8 32 16 5.79217261733e-08
K1_2 L1 L2 0.628312
K1_3 L1 L3 0.544451
K1_4 L1 L4 0.752042
K1_5 L1 L5 0.846431
K1_6 L1 L6 0.634274
K1_7 L1 L7 0.571312
K1_8 L1 L8 0.686605
K2_3 L2 L3 0.853736
K2_4 L2 L4 0.510777
K2_5 L2 L5 0.557118
K2_6 L2 L6 0.901548
K2_7 L2 L7 0.869646
K2_8 L2 L8 0.467587
K3_4 L3 L4 0.48262
K3_5 L3 L5 0.498298
K3_6 L3 L6 0.755569
K3_7 L3 L7 0.930901
K3_8 L3 L8 0.454693
K4_5 L4 L5 0.798895
K4_6 L4 L6 0.503288
K4_7 L4 L7 0.49666
K4_8 L4 L8 0.915782
K5_6 L5 L6 0.659908
K5_7 L5 L7 0.606711
K5_8 L5 L8 0.824176
K6_7 L6 L7 0.849875
K6_8 L6 L8 0.536406
K7_8 L7 L8 0.528416
.ends phACaps_series
.ends phACaps
