* BEGIN ANSOFT HEADER
* node 1    BASBARNEG:Cap1Neg
* node 2    BASBARNEG:Cap2Neg
* node 3    BASBARNEG:Cap3Neg
* node 4    BASBARNEG:Cap4Neg
* node 5    BASBARPOS:Cap1Pos
* node 6    BASBARPOS:Cap2Pos
* node 7    BASBARPOS:Cap3Pos
* node 8    BASBARPOS:Cap4Pos
* node 9    BASBARNEG:PhBNeg
* node 10   BASBARPOS:PhBPos
*  Project: Busbarfinal
*   Design: busbar-PhBCaps
*   Format: Ansys Nexxim
*   Topckt: phBCaps
*  Creator: Ansys Electronics Desktop 2024.2.0
*     Date: Fri Nov 15 10:55:03 2024
* END ANSOFT HEADER

.subckt phBCaps 1 2 3 4 5 6 7 8 9 10
X1 1 2 3 4 5 6 7 8 9 9 9 9 10 10 10 10 phBCaps_series

.subckt phBCaps_series 1 2 3 4 5 6 7 8 9 10 11 12 13 14 15 16
V1 1 17 dc 0.0
V2 2 18 dc 0.0
V3 3 19 dc 0.0
V4 4 20 dc 0.0
V5 5 21 dc 0.0
V6 6 22 dc 0.0
V7 7 23 dc 0.0
V8 8 24 dc 0.0
R1 17 25 0.000224547835039
R2 18 26 0.000319308582538
R3 19 27 0.000635798107045
R4 20 28 0.000500134108746
R5 21 29 0.000469610562306
R6 22 30 0.000353720201282
R7 23 31 0.000671690143446
R8 24 32 0.000826937598915
F1_2 25 17 V2 0.534578
F1_3 25 17 V3 0.622821
F1_4 25 17 V4 1.09706
F1_5 25 17 V5 0.656929
F1_6 25 17 V6 0.32717
F1_7 25 17 V7 0.44711
F1_8 25 17 V8 0.760748
F2_1 26 18 V1 0.375932
F2_3 26 18 V3 1.1136
F2_4 26 18 V4 0.494815
F2_5 26 18 V5 0.338021
F2_6 26 18 V6 0.463818
F2_7 26 18 V7 0.713852
F2_8 26 18 V8 0.435036
F3_1 27 19 V1 0.219964
F3_2 27 19 V2 0.559268
F3_4 27 19 V4 0.327614
F3_5 27 19 V5 0.228885
F3_6 27 19 V6 0.278495
F3_7 27 19 V7 0.564171
F3_8 27 19 V8 0.33148
F4_1 28 20 V1 0.492552
F4_2 28 20 V2 0.315913
F4_3 28 20 V3 0.41648
F4_5 28 20 V5 0.471385
F4_6 28 20 V6 0.215113
F4_7 28 20 V7 0.334856
F4_8 28 20 V8 0.716386
F5_1 29 21 V1 0.314116
F5_2 29 21 V2 0.229835
F5_3 29 21 V3 0.309884
F5_4 29 21 V4 0.502024
F5_6 29 21 V6 0.537573
F5_7 29 21 V7 0.64278
F5_8 29 21 V8 1.1023
F6_1 30 22 V1 0.207693
F6_2 30 22 V2 0.418696
F6_3 30 22 V3 0.500584
F6_4 30 22 V4 0.304154
F6_5 30 22 V5 0.7137
F6_7 30 22 V7 1.09154
F6_8 30 22 V8 0.790662
F7_1 31 23 V1 0.14947
F7_2 31 23 V2 0.339351
F7_3 31 23 V3 0.534025
F7_4 31 23 V4 0.249331
F7_5 31 23 V5 0.449398
F7_6 31 23 V6 0.57482
F7_8 31 23 V8 0.538856
F8_1 32 24 V1 0.206575
F8_2 32 24 V2 0.167982
F8_3 32 24 V3 0.254862
F8_4 32 24 V4 0.433272
F8_5 32 24 V5 0.625986
F8_6 32 24 V6 0.338204
F8_7 32 24 V7 0.437692
L1 25 9 2.24394702557e-08
L2 26 10 2.87801521312e-08
L3 27 11 5.32367643597e-08
L4 28 12 4.48203889084e-08
L5 29 13 3.4922091899e-08
L6 30 14 2.83837005673e-08
L7 31 15 5.15304695703e-08
L8 32 16 5.99083217215e-08
K1_2 L1 L2 0.476735
K1_3 L1 L3 0.399707
K1_4 L1 L4 0.767202
K1_5 L1 L5 0.858122
K1_6 L1 L6 0.466488
K1_7 L1 L7 0.422305
K1_8 L1 L8 0.698081
K2_3 L2 L3 0.807406
K2_4 L2 L4 0.433037
K2_5 L2 L5 0.467841
K2_6 L2 L6 0.847802
K2_7 L2 L7 0.830367
K2_8 L2 L8 0.414315
K3_4 L3 L4 0.402546
K3_5 L3 L5 0.405683
K3_6 L3 L6 0.671146
K3_7 L3 L7 0.912291
K3_8 L3 L8 0.396692
K4_5 L4 L5 0.811921
K4_6 L4 L6 0.41288
K4_7 L4 L7 0.414263
K4_8 L4 L8 0.918883
K5_6 L5 L6 0.576973
K5_7 L5 L7 0.517856
K5_8 L5 L8 0.831322
K6_7 L6 L7 0.801142
K6_8 L6 L8 0.488514
K7_8 L7 L8 0.474395
.ends phBCaps_series
.ends phBCaps
