* C:\Github\KTH\Bearing Current Model\Draft1.asc
Rdson N005 0 100m
C1 N003 N002 1µ
Ls N001 N005 20n
V1 N004 N006 SINE(0 5 280k)
L1 N001 0 100n
L2 N002 N006 1000n
R1 N004 N003 1
.tran 1e-4
K1 L1 L2 1
.backanno
.end
