* BEGIN ANSOFT HEADER
* node 1    BASBARNEG:Cap1Neg
* node 2    BASBARNEG:Cap2Neg
* node 3    BASBARNEG:Cap3Neg
* node 4    BASBARNEG:Cap4Neg
* node 5    BASBARPOS:Cap1Pos
* node 6    BASBARPOS:Cap2Pos
* node 7    BASBARPOS:Cap3Pos
* node 8    BASBARPOS:Cap4Pos
* node 9    BASBARNEG:PhCNeg
* node 10   BASBARPOS:PhCPos
*  Project: Busbarfinal
*   Design: busbar-PhCCaps
*   Format: Ansys Nexxim
*   Topckt: phCCaps
*  Creator: Ansys Electronics Desktop 2024.2.0
*     Date: Fri Nov 15 11:01:53 2024
* END ANSOFT HEADER

.subckt phCCaps 1 2 3 4 5 6 7 8 9 10
X1 1 2 3 4 5 6 7 8 9 9 9 9 10 10 10 10 phCCaps_series

.subckt phCCaps_series 1 2 3 4 5 6 7 8 9 10 11 12 13 14 15 16
V1 1 17 dc 0.0
V2 2 18 dc 0.0
V3 3 19 dc 0.0
V4 4 20 dc 0.0
V5 5 21 dc 0.0
V6 6 22 dc 0.0
V7 7 23 dc 0.0
V8 8 24 dc 0.0
R1 17 25 0.000422737529795
R2 18 26 0.000273111349803
R3 19 27 0.000583810016803
R4 20 28 0.000674183522595
R5 21 29 0.000650212635279
R6 22 30 0.000302401138851
R7 23 31 0.000629067303009
R8 24 32 0.000985737504729
F1_2 25 17 V2 0.455717
F1_3 25 17 V3 0.501838
F1_4 25 17 V4 1.02766
F1_5 25 17 V5 0.598331
F1_6 25 17 V6 0.26415
F1_7 25 17 V7 0.331476
F1_8 25 17 V8 0.641371
F2_1 26 18 V1 0.705386
F2_3 26 18 V3 1.13101
F2_4 26 18 V4 0.807531
F2_5 26 18 V5 0.524496
F2_6 26 18 V6 0.445615
F2_7 26 18 V7 0.746041
F2_8 26 18 V8 0.616916
F3_1 27 19 V1 0.363382
F3_2 27 19 V2 0.529098
F3_4 27 19 V4 0.45974
F3_5 27 19 V5 0.308527
F3_6 27 19 V6 0.259059
F3_7 27 19 V7 0.568237
F3_8 27 19 V8 0.406042
F4_1 28 20 V1 0.64438
F4_2 28 20 V2 0.32713
F4_3 28 20 V3 0.398113
F4_5 28 20 V5 0.487672
F4_6 28 20 V6 0.200287
F4_7 28 20 V7 0.288539
F4_8 28 20 V8 0.653045
F5_1 29 21 V1 0.389006
F5_2 29 21 V2 0.220306
F5_3 29 21 V3 0.277019
F5_4 29 21 V4 0.50565
F5_6 29 21 V6 0.483038
F5_7 29 21 V7 0.563871
F5_8 29 21 V8 1.06028
F6_1 30 22 V1 0.369264
F6_2 30 22 V2 0.402454
F6_3 30 22 V3 0.500134
F6_4 30 22 V4 0.446526
F6_5 30 22 V5 1.03861
F6_7 30 22 V7 1.12255
F6_8 30 22 V8 1.10814
F7_1 31 23 V1 0.222754
F7_2 31 23 V2 0.323896
F7_3 31 23 V3 0.527356
F7_4 31 23 V4 0.309233
F7_5 31 23 V5 0.582824
F7_6 31 23 V6 0.539624
F7_8 31 23 V8 0.665025
F8_1 32 24 V1 0.275054
F8_2 32 24 V2 0.170925
F8_3 32 24 V3 0.240481
F8_4 32 24 V4 0.446642
F8_5 32 24 V5 0.699384
F8_6 32 24 V6 0.339952
F8_7 32 24 V7 0.424398
L1 25 9 4.04757964718e-08
L2 26 10 2.57032713081e-08
L3 27 11 5.06622144882e-08
L4 28 12 6.11208955506e-08
L5 29 13 5.1719236909e-08
L6 30 14 2.47781062826e-08
L7 31 15 4.91950160171e-08
L8 32 16 7.59656062687e-08
K1_2 L1 L2 0.598889
K1_3 L1 L3 0.470219
K1_4 L1 L4 0.832839
K1_5 L1 L5 0.902995
K1_6 L1 L6 0.58206
K1_7 L1 L7 0.486021
K1_8 L1 L8 0.765674
K2_3 L2 L3 0.797049
K2_4 L2 L4 0.550622
K2_5 L2 L5 0.591176
K2_6 L2 L6 0.827666
K2_7 L2 L7 0.822175
K2_8 L2 L8 0.531698
K3_4 L3 L4 0.471542
K3_5 L3 L5 0.478988
K3_6 L3 L6 0.648903
K3_7 L3 L7 0.907946
K3_8 L3 L8 0.46785
K4_5 L4 L5 0.8624
K4_6 L4 L6 0.524181
K4_7 L4 L7 0.479254
K4_8 L4 L8 0.934354
K5_6 L5 L6 0.682519
K5_7 L5 L7 0.573782
K5_8 L5 L8 0.867703
K6_7 L6 L7 0.791787
K6_8 L6 L8 0.597997
K7_8 L7 L8 0.538045
.ends phCCaps_series
.ends phCCaps
