* EPC2361 synchronous RL half-bridge
Vdc supply 0 {Vin}
Rcharge supply bus {Rcharge}
Rcap bus cap_esl {ESR}
Lcap cap_esl cap {max(ESL,1e-15)} Rser=0
Cin cap 0 {Cin}
Llayout bus rail {max(Lloop*LplusFrac,1e-15)} Rser={Rloop*RplusFrac}
Lload sw load_r {Lload} Rser={Rload}
XHS gh rail sh EPC2361
Lsh sh hs_ref {max(CSI,1e-15)} Rser={RCSI}
Vsense sw drain 0
XDUT gl drain sl EPC2361
Lsl sl pgnd {max(CSI,1e-15)} Rser={RCSI}
Vcmd cmd 0 PWL(0 0 6.01e-06 0 6.012e-06 5 1.0998e-05 5 1.1e-05 0 1.601e-05 0 1.6012e-05 5 2.0998e-05 5 2.1e-05 0 2.601e-05 0 2.6012e-05 5 3.0998e-05 5 3.1e-05 0 3.601e-05 0 3.6012e-05 5 4.0998e-05 5 4.1e-05 0 4.601e-05 0 4.6012e-05 5 5.0998e-05 5 5.1e-05 0 5.601e-05 0 5.6012e-05 5 6.0998e-05 5 6.1e-05 0 6.601e-05 0 6.6012e-05 5 7.0998e-05 5 7.1e-05 0 7.601e-05 0 7.6012e-05 5 8.0998e-05 5 8.1e-05 0 8.601e-05 0 8.6012e-05 5 9.0998e-05 5 9.1e-05 0 9.601e-05 0 9.6012e-05 5 0.000100998 5 0.000101 0 0.00010601 0 0.000106012 5 0.000110998 5 0.000111 0 0.00011601 0 0.000116012 5 0.000120998 5 0.000121 0 0.00012601 0 0.000126012 5 0.000130998 5 0.000131 0 0.00013601 0 0.000136012 5 0.000140998 5 0.000141 0 0.00014601 0 0.000146012 5 0.000150998 5 0.000151 0 0.00015601 0 0.000156012 5 0.000160998 5 0.000161 0 0.00016601 0 0.000166012 5 0.000170998 5 0.000171 0 0.00017601 0 0.000176012 5 0.000180998 5 0.000181 0 0.00018601 0 0.000186012 5 0.000190998 5 0.000191 0 0.00019601 0 0.000196012 5 0.000200998 5 0.000201 0)
Von on lret {Von}
Voff off lret {Voff}
Sup on pu cmd 0 DRV_ON
Rup pu ldrive {Rg_on+RGD_PU}
Sdown off pd cmd 0 DRV_OFF
Rdown pd ldrive {Rg_off+RGD_PD}
Lmid hs_ref sw {max(Lloop*(1-LplusFrac-LreturnFrac),1e-15)} Rser={Rloop*max(1-RplusFrac-RreturnFrac,0)}
Lreturn pgnd 0 {max(Lloop*LreturnFrac,1e-15)} Rser={Rloop*RreturnFrac}
LgateLS ldrive gl {max(LgLS,1e-15)} Rser={RgTraceLS}
LgateReturnLS lret pgnd {max(LgrLS,1e-15)} Rser={RgrLS}
LgateHS hdrive gh {max(LgHS,1e-15)} Rser={RgTraceHS}
LgateReturnHS hret hs_ref {max(LgrHS,1e-15)} Rser={RgrHS}
Rdecap rail decap_esl {ESRdecap}
Ldecap decap_esl decap {max(ESLdecap,1e-15)} Rser=0
Cdecap decap pgnd {Cdecap}
Rout load_r pgnd {Rout}
VcmdHS cmdhs 0 PWL(0 0 1.01e-06 0 1.012e-06 5 5.998e-06 5 6e-06 0 1.101e-05 0 1.1012e-05 5 1.5998e-05 5 1.6e-05 0 2.101e-05 0 2.1012e-05 5 2.5998e-05 5 2.6e-05 0 3.101e-05 0 3.1012e-05 5 3.5998e-05 5 3.6e-05 0 4.101e-05 0 4.1012e-05 5 4.5998e-05 5 4.6e-05 0 5.101e-05 0 5.1012e-05 5 5.5998e-05 5 5.6e-05 0 6.101e-05 0 6.1012e-05 5 6.5998e-05 5 6.6e-05 0 7.101e-05 0 7.1012e-05 5 7.5998e-05 5 7.6e-05 0 8.101e-05 0 8.1012e-05 5 8.5998e-05 5 8.6e-05 0 9.101e-05 0 9.1012e-05 5 9.5998e-05 5 9.6e-05 0 0.00010101 0 0.000101012 5 0.000105998 5 0.000106 0 0.00011101 0 0.000111012 5 0.000115998 5 0.000116 0 0.00012101 0 0.000121012 5 0.000125998 5 0.000126 0 0.00013101 0 0.000131012 5 0.000135998 5 0.000136 0 0.00014101 0 0.000141012 5 0.000145998 5 0.000146 0 0.00015101 0 0.000151012 5 0.000155998 5 0.000156 0 0.00016101 0 0.000161012 5 0.000165998 5 0.000166 0 0.00017101 0 0.000171012 5 0.000175998 5 0.000176 0 0.00018101 0 0.000181012 5 0.000185998 5 0.000186 0 0.00019101 0 0.000191012 5 0.000195998 5 0.000196 0)
VhsOn h_on hret {Von}
VhsOff h_off hret {Voff}
Shup h_on h_pu cmdhs 0 DRV_ON
Shdown h_off h_pd cmdhs 0 DRV_OFF
Rhup h_pu hdrive {Rg_on+RGD_PU}
Rhdown h_pd hdrive {Rg_off+RGD_PD}
Rfilm bus film_l {ESRfilm}
Lfilm film_l film_c {max(ESLfilm,1e-15)} Rser=0
Cfilm film_c 0 {Cfilm}
.param Vin=75 Itest=45 Lload=2e-05 Rload=0.02 Tj=100 AutoT1=1 Tcharge=6.667e-06 Fsw=100000 Vlimit=100 Tdelay=1e-06 Toff=1e-06 Tsecond=1e-06 Tr=2e-09 Tf=2e-09 Ttail=2e-06 Maxstep=2e-10 Wpre=2e-08 Wpost=1e-07 Cin=0.00047 ESR=0.02 ESL=1e-08 Rcharge=0.02 Cdecap=4.7e-06 ESRdecap=0.003 ESLdecap=3e-10 Von=5 Voff=-1 Rg_on=1 Rg_off=0 RGD_PU=0.7 RGD_PD=0.4 Rg_HS=0.4 Refined=1 Lloop=6e-10 Rloop=0.005 CSI=1e-10 RCSI=0.0001 LplusFrac=0.5 LreturnFrac=0.5 RplusFrac=0.5 RreturnFrac=0.5 LgLS=5e-10 LgrLS=5e-10 RgTraceLS=0.02 RgrLS=0.02 LgHS=5e-10 LgrHS=5e-10 RgTraceHS=0.02 RgrHS=0.02 LossVth=1.5 Mode=1 Duty=0.5 Deadtime=1e-08 Cycles=20 Rout=0.8133333333 Iinitial=45 Cfilm=2.2e-05 ESRfilm=0.005 ESLfilm=3e-09 Stop=0.000201
.include ".\EPCGaNLibrary.lib"
.temp {Tj}
.model DRV_ON SW(Ron=1m Roff=1G Vt=2.5 Vh=0)
.model DRV_OFF SW(Ron=1G Roff=1m Vt=2.5 Vh=0)
.ic I(Lload)={Iinitial}
.tran 0 {Stop} 0 {Maxstep}
.options plotwinsize=0
.save V(cmd) V(cmdhs) V(gl,sl) V(gh,sh) V(drain,sl) V(rail,sh) V(bus) V(rail) V(pgnd) I(Lload) I(Vsense) I(Lsh) I(Cin) I(Cfilm)
.meas tran Vds_peak MAX V(drain,sl)
.meas tran Vds_HS_peak MAX V(rail,sh)
.meas tran Vgs_LS_peak MAX V(gl,sl)
.meas tran Vgs_LS_min MIN V(gl,sl)
.meas tran Vgs_HS_peak MAX V(gh,sh)
.meas tran Vgs_HS_min MIN V(gh,sh)
.meas tran Local_bus_peak MAX V(rail,pgnd)
.meas tran Local_bus_min MIN V(rail,pgnd)
.meas tran Iload_avg AVG I(Lload) FROM={Stop-2/Fsw} TO={Stop}
.meas tran Iload_min MIN I(Lload) FROM={Stop-2/Fsw} TO={Stop}
.meas tran Iload_max MAX I(Lload) FROM={Stop-2/Fsw} TO={Stop}
.meas tran Ibulk_rms RMS I(Cin) FROM={Stop-2/Fsw} TO={Stop}
.meas tran Ifilm_rms RMS I(Cfilm) FROM={Stop-2/Fsw} TO={Stop}
.meas tran Bus_ripple PP V(rail,pgnd) FROM={Stop-2/Fsw} TO={Stop}
.save I(Cdecap)
.meas tran Iceramic_rms RMS I(Cdecap) FROM={Stop-2/Fsw} TO={Stop}
.save V(HS:drain) V(HS:source) V(HS:gate) I(HS:bswitch) I(HS:rd) I(HS:rs)
.save V(DUT:drain) V(DUT:source) V(DUT:gate) I(DUT:bswitch) I(DUT:rd) I(DUT:rs)
.end
